US07763750B2
Production of N2-[1,1-dimethyl-2-(methyl-sulfinyl)ethyl]-N1-{2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl}-1,2-benzenedicarboxamide
Phthaloyl dichloride (18.78 g) was added dropwise to a mixture of aqueous sodium hydroxide solution (7.59 g/55 mL), 2-methyl-1-methylthio-2-propanamine (11.03 g) and 1,2-dichloroethane (55 mL) at 40° C. or lower. After completion of the dropwise addition, the resulting mixture was stirred at 40° C. for 30 minutes and the organic layer was separated to prepare a solution of N-[1,1-dimethyl-2-(methylthio)ethyl]isophthalimide in 1,2-dichloroethane. The previously prepared isophthalimide solution and 35% hydrogen peroxide (9.89 g) were slowly dropped at the same time into a mixture of 2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline (24.18 g), p-toluenesulfonic acid monohydrate (0.44 g) and 1,2-dichloroethane (13.75 mL) at 60° C. and then stirred at 60° C. for 1 hour. An aqueous sodium sulfite solution was added dropwise to the thus obtained reaction mixture at the same temperature to decompose the excess oxidizing agent. Then, the resulting mixture was neutralized with an aqueous sodium hydrogencarbonate solution, after which the organic layer was separated. The organic layer obtained was slowly cooled to 20° C. The crystals precipitated were filtered, washed with water and then dried to obtain 41.70 g (yield 83%) of the title compound.

reactant | Phthaloyl dichloride | 18.78 g | C(C=1C(C(=O)Cl)=CC=CC1)(=O)Cl | C8H4Cl2O2
reactant | sodium hydroxide | 55 mL, 7.59 g | [OH-].[Na+]
reactant | 2-methyl-1-methylthio-2-propanamine | 11.03 g | CC(CSC)(C)N | C5H13NS
reactant | isophthalimide | C1(C2=CC(C(N1)=O)=CC=C2)=O | C8H5NO2
reactant | hydrogen peroxide | 9.89 g | OO | H2O2
reactant | 2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline | 24.18 g | CC1=C(N)C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F | C10H8F7N
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | p-toluenesulfonic acid monohydrate | 0.44 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 1,2-dichloroethane | 13.75 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 55 mL | ClCCCl | C2H4Cl2
product | N2-[1,1-dimethyl-2-(methyl-sulfinyl)ethyl]-N1-{2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl}-1,2-benzenedicarboxamide | 41.70 g, yield 83% | CC(CS(=O)C)(C)NC(=O)C=1C(=CC=CC1)C(=O)NC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)F)C | C23H23F7N2O3S
